US09315489B2
Stage 3.1 3-Bromo-N-(4-(trifluoromethoxy)phenyl)benzamide
A mixture of 3-bromobenzoic acid (10 g, 49.7 mmol), thionyl chloride (4.72 mL, 64.7 mmol), and DMF (1.5 mL) in toluene (80 mL) was stirred at 80° C. for 2 h. The mixture was cooled to 0° C., treated dropwise with DIPEA (19.11 mL, 109 mmol) followed by 4-trifluoromethoxyaniline (6.73 mL, 49.7 mmol) and the RM was allowed to warm to RT and stirred overnight. The mixture was diluted with EtOAc (150 mL), washed with 0.5 M HCl (2×100 mL), sat. NaHCO3 (2×100 mL) and brine (100 mL), dried over MgSO4 and the solvent was evaporated off under reduced pressure and the product was crystallized from n-heptane/EtOAc to afford the title compound. LC-MS (Condition 5) tR=1.37 min, m/z=360.1, 362.1 [M+H]+; 1H-NMR (400 MHz, MeOD) δ ppm 7.30 (d, J=8.80 Hz, 2H) 7.47 (t, J=7.95 Hz, 1H) 7.74-7.86 (m, 3H) 7.93 (d, J=7.82 Hz, 1H) 8.13 (s, 1H).

reactant | 3-bromobenzoic acid | 49.7 mmol, 10 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | thionyl chloride | 64.7 mmol, 4.72 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DIPEA | 109 mmol, 19.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxyaniline | 49.7 mmol, 6.73 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1 | C14H9BrF3NO2
